US06008230
To a stirred suspension of 8-(2,6-dichlorobenzoylamino)-4-(2-methylhydrazino)quinoline (500 mg) and triethylamine (700 mg) in dichloromethane (5 ml) was added acetic anhydride (155 mg) at ambient temperature, and the mixture was allowed to stand for 10 days at the same temperature. The mixture was diluted with dichloromethane, washed with water and evaporated in vacuo. The obtained residue was dissolved in methanol (10 ml), and a 28%0 solution of sodium methoxide in methanol (0.53 ml) was added thereto under ice-cooling. The mixture was stirred for 1 hour at the same temperature, and neutralized with 1N hydrochloric acid. The mixture was concentrated in vacuo and extracted with dichloromethane. The organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate) and crystallized from ethanol to give 4-(2-acetyl-2-methylhydrazino)-8-(2,6-dichlorobenzoylamino)quinoline (544 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-4-(2-methylhydrazino)quinoline | 500 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)NNC)C(=CC=C1)Cl | C17H14Cl2N4O
reactant | triethylamine | 700 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 155 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(2-acetyl-2-methylhydrazino)-8-(2,6-dichlorobenzoylamino)quinoline | 544 mg | C(C)(=O)N(NC1=CC=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C | C19H16Cl2N4O2
